US07838674B2
c) 6-Aza-spiro[3.5]nonane-7,9-dione
7,9-Dioxo-6-aza-spiro[3.5]nonane-8-carboxylic acid methyl ester (1.30 g, 6.2 mmol) in 30 ml acetonitrile/water (10:1) is refluxed for 1 hour. The reaction mixture is evaporated and the product purified by chromatography on silica. 1H-NMR (400 MHz; DMSO-d6): 8.02 (s, 1H), 3.40 (brs, 2H), 3.25 (s, 2H), 2.30-2.15 (m, 2H), 2.04-1.88 (m, 1H), 1.86-1.70 (m, 3H); LC-MS (m/z, ES+): 153 (MH+), retention time: 0.86 mins (LC-MS method 2)

reactant | 7,9-Dioxo-6-aza-spiro[3.5]nonane-8-carboxylic acid methyl ester | 6.2 mmol, 1.30 g | COC(=O)C1C(NCC2(CCC2)C1=O)=O | C10H13NO4
solvent | acetonitrile water | 30 ml | C(C)#N.O
product | 6-Aza-spiro[3.5]nonane-7,9-dione | C1CCC12CNC(CC2=O)=O | C8H11NO2
